US07812173B2
Alternately, the tetrahydro-1,8-dioxa-4a-aza-naphthalene may be functionalized, for example, via reaction of (mono)hydroxy tetrahydro-1,8-dioxa-4a-aza-naphthalene with isocyanate to give urethane tetrahydro-1,8-dioxa-4a-aza-naphthalene, or with diisocyanates, for example, 1,6-hexamethylene diisocyanate, to give diurethane ditetrahydro-1,8-dioxa-4a-aza-naphthalenes, or DESMODUR® 3300 commercially available from Bayer Corporation, Pittsburgh, Pa. which contains multifunctional isocyanates, such as triisocyanate, to give the corresponding multifunctional urethane tetrahydro-1,8-dioxa-4a-aza-naphthalenes. Many of these compounds are novel.

reactant | tetrahydro-1,8-dioxa-4a-aza-naphthalene | O1CCCN2CC=COC12 | C7H11NO2
reactant | isocyanate | [N-]=C=O
product | urethane tetrahydro-1,8-dioxa-4a-aza-naphthalene | O1CCCN2CC=COC12.NC(=O)OCC | InChI=1S/C7H11NO2.C3H7NO2/c1-3-8-4-2-6-10-7(8)9-5-1;1-2-6-3(4)5/h1,5,7H,2-4,6H2;2H2,1H3,(H2,4,5)
